US06897231B2
A. 3-(2,3-Dihydrobenzo[b]furan-5-yl)-1H-indazole-5-carbonitrile
The title compound was prepared as described in Example 411, using 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (0.750 g, 2.45 mmol), in ethylene glycol dimethyl ether (50 mL), 2,3-dihydrobenzo[b]furan-5-boronic acid (0.480 g, 2.9 mmol), [1,1′-bis(diphenylphosphino-ferrocene] complex with dichloromethane (1:1) (0.200 g, 0.20 mmol) and potassium phosphate (5.2 g, 24 mmol). Solvent was removed using a rotary evaporator and purification of the residue by column chromatography (20% ethyl acetate/hexanes) gave a solid. Methanol (50 mL) and aqueous 6 N hydrochloric acid (50 mL) were added to the solid and the mixture was heated at 45° C. for 5 h. Water (40 mL) was added and the solid was filtered and dried in a vacuum oven to afford the title compound (0.350 g, 64% yield over 2 steps): ES-MS (m/z) 262 [M+1]+.

reactant | 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 2.45 mmol, 0.750 g | BrC1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C13H12BrN3O
reactant | 2,3-dihydrobenzo[b]furan-5-boronic acid | 2.9 mmol, 0.480 g | O1C2=C(CC1)C=C(C=C2)B(O)O | C8H9BO3
reactant | dichloromethane | 0.20 mmol, 0.200 g | ClCCl | CH2Cl2
reactant | potassium phosphate | 24 mmol, 5.2 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | hydrochloric acid | 6 N, 50 mL | Cl | ClH
solvent | ethylene glycol dimethyl ether | 50 mL | COCCOC | C4H10O2
solvent | Water | 40 mL | O | H2O
solvent | Methanol | 50 mL | CO | CH4O
product | 3-(2,3-Dihydrobenzo[b]furan-5-yl)-1H-indazole-5-carbonitrile | 0.350 g, 64% yield | O1C2=C(CC1)C=C(C=C2)C2=NNC1=CC=C(C=C21)C#N | C16H11N3O
